US08012974B2
To a flask was added DCM (40 mL), DIPEA (2.0 mL, 11.48 mmol), c is 5,6-dichloro-2-(3-hydroxy-cyclopentyl)-2,3-dihydro-1H-isoindole-1,3-diol 1.071 g, 3.57 mmol) and methanesulfonyl chloride (0.6 mL, 7.72 mmol) and the mixture stirred overnight at RT. The mixture was concentrated in vacuo, EtOAc (100 mL) and H2O (100 mL) added, filtered off insolubles, separated and extracted the aqueous layer with EtOAc (50 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo to give cis methanesulfonic acid 3-(5,6-dichloro-1,3-dihydroxy-1,3-dihydro-isoindol-2-yl)-cyclopentyl ester as a tan solid (1.5 g, impure as >100% yield).

reactant | DIPEA | 11.48 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5,6-dichloro-2-(3-hydroxy-cyclopentyl)-2,3-dihydro-1H-isoindole-1,3-diol | 3.57 mmol, 1.071 g | ClC=1C=C2C(N(C(C2=CC1Cl)O)C1CC(CC1)O)O | C13H15Cl2NO3
reactant | methanesulfonyl chloride | 7.72 mmol, 0.6 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | cis methanesulfonic acid 3-(5,6-dichloro-1,3-dihydroxy-1,3-dihydro-isoindol-2-yl)-cyclopentyl ester | >100% yield | ClC=1C=C2C(N(C(C2=CC1Cl)O)[C@H]1C[C@H](CC1)OS(=O)(=O)C)O | C14H17Cl2NO5S
